US07462624B2
Step F: 6-isobutyl-6,7-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one
To a solution of 6-isobutyl-7-(tetrahydro-2H-pyran-2-yl)-6,7-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one (20 mg, 0.06 mmol) in methylene chloride (0.8 mL) was added TFA (0.1 mL, 1 mmol) dropwise. After stirring at room temperature for 30 minutes, the reaction mixture was concentrated to give the crude product which was used for next step without further purification. LCMS calculated for C10H13N6O (M+H): 233.1; found: 233.1.

reactant | 6-isobutyl-7-(tetrahydro-2H-pyran-2-yl)-6,7-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one | 0.06 mmol, 20 mg | C(C(C)C)N1C(N2C(C=3N=CN(C13)C1OCCCC1)=NN=C2)=O | C15H20N6O2
reactant | TFA | 1 mmol, 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 0.8 mL | C(Cl)Cl | CH2Cl2
product | 6-isobutyl-6,7-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one | C(C(C)C)N1C(N2C(C=3N=CNC13)=NN=C2)=O | C10H12N6O
